US07071175B1
3-Acetylsulfanyl-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-propionic acid ethyl ester (150 mg, 0.392 mmol) was dissolved in ethanol (15 mL) saturated with NH3 (g). After stirring for 160 min., the mixture was concentrated under reduced pressure. The residue was dissolved in EtOH (10 mL) whereafter a solution of 12 in EtOH (0.5 M, 0.784 mL) was added. The reaction was stirred for 30 min. at room temperature, then diluted with CH2Cl2, washed with saturated aqueous Na2S2O5 and saturated aqueous NaHCO3, dried, filtered and concentrated under reduced pressure to give 3-[3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-2-ethoxycarbonyl-propyldisulfanyl]-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-propionic acid ethyl ester (130 mg, 98%).

reactant | 3-Acetylsulfanyl-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-propionic acid ethyl ester | 0.392 mmol, 150 mg | C(C)OC(C(CSC(C)=O)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C18H26N2O5S
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | NH3 | N | H3N
product | 3-[3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-2-ethoxycarbonyl-propyldisulfanyl]-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-propionic acid ethyl ester | 130 mg, 98% | C(C)OC(C(CSSCC(CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)C(=O)OCC)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C32H46N4O8S2
